US04927958
A solution of 19.6 g (0.1 mol) of 2,3,4-trimethoxybenzaldehyde in 21 ml (0.28 mol) of acetone and 10.5 ml of water was treated with 2.5 ml of 3N sodium hydroxide solution, whereby the temperature of the reaction mixture should not exceed 30°. The mixture was stirred at room temperature for 20 hours, diluted with water, and 3N hydrochloric acid was added to produce a strongly acidic reaction. The aqueous phase was extracted twice with methylene chloride. The combined organic phases were washed with water, dried over magnesium sulphate and concentrated. The residue was purified by flash chromatography on 1000 g of silica gel (elution agent ether/hexane 10:1). There was obtained (E)-4-(2,3,4-trimethoxyphenyl)but-3-en-2-one as a yellow oil. MS: 236 (M+), 205 (base peak) m/e.

reactant | 2,3,4-trimethoxybenzaldehyde | 0.1 mol, 19.6 g | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
reactant | acetone | 0.28 mol, 21 ml | CC(=O)C | C3H6O
reactant | sodium hydroxide | 3N, 2.5 ml | [OH-].[Na+]
solvent | water | 10.5 ml | O | H2O
solvent | hydrochloric acid | 3N | Cl | ClH
product | (E)-4-(2,3,4-trimethoxyphenyl)but-3-en-2-one | COC1=C(C=CC(=C1OC)OC)/C=C/C(C)=O | C13H16O4
